US06774258B2
By following the procedure of Synthesis Example 2 except that 4-ethyl-1,4-hexanediol was used instead of 4-methyl-1,4-pentanediol and methyl 8-tetracyclo-[4.4.0.12,5.17,10]dodecene-3-carboxylate used instead of methyl 5-norbornene-2-carboxylate, there was obtained 4-ethyl-4-hydroxyhexyl 8-tetracyclo[4.4.0.12,5.17,10]dodecene-3-carboxylate. Yield 89%.

reactant | 4-ethyl-1,4-hexanediol | C(C)C(CCCO)(CC)O | C8H18O2
reactant | methyl 8-tetracyclo-[4.4.0.12,5.17,10]dodecene-3-carboxylate | C12C3C(CC(C2C2C=CC1C2)C3)C(=O)OC | C14H18O2
product | 4-ethyl-4-hydroxyhexyl 8-tetracyclo[4.4.0.12,5.17,10]dodecene-3-carboxylate | Yield 89% | C12C3C(CC(C2C2C=CC1C2)C3)C(=O)OCCCC(CC)(O)CC | C21H32O3
